US09399640B2
Step 4. 8-(2,4-Difluorophenoxy)-7-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-3,4-dihydroquinoxalin-2(1H)-one
A suspension of methyl {[3-(2,4-difluorophenoxy)-4-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-2-nitrophenyl]amino}acetate (0.048 g, 0.078 mmol) in ethyl acetate (0.452 mL) and methanol (0.452 mL) was cooled to 0° C. and then treated with saturated ammonium chloride solution (0.0679 mL, 1.01 mmol) at that temperature. Zinc (0.0408 g, 0.624 mmol) was added to the reaction mixture in two portions over 5 min and the reaction mixture was stirred at RT for 16 h. The reaction mixture was diluted with dichloromethane and filtered through a pad of Celite. The solids were washed with additional dichloromethane and the filtrate was concentrated in vacuo to yield a crude residue. The residue was dissolved in dichloromethane and the organic phase was washed with saturated sodium bicarbonate solution, dried with sodium sulfate, filtered, and concentrated in vacuo to give the crude product. Purification via preparative LCMS (XBridge C18 column, eluting with a gradient of acetonitrile/water 0.1% ammonium hydroxide, at flow rate of 60 mL/min) gave the desired product (10.5 mg, 24%) along with a small amount of the oxidized product, 8-(2,4-difluorophenoxy)-7-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)quinoxalin-2(1H)-one. This mixture was used in the next step without separation. LCMS calculated for C27H30F2N5O4Si (M+H)+: m/z=554.2. found: 554.1.

reactant | methyl {[3-(2,4-difluorophenoxy)-4-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-2-nitrophenyl]amino}acetate | 0.078 mmol, 0.048 g | FC1=C(OC=2C(=C(C=CC2C=2C3=C(C(N(C2)C)=O)N(N=C3)COCC[Si](C)(C)C)NCC(=O)OC)[N+](=O)[O-])C=CC(=C1)F | C28H31F2N5O7Si
reactant | ammonium chloride | 1.01 mmol, 0.0679 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 0.452 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.452 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | Zinc | 0.624 mmol, 0.0408 g | [Zn] | Zn
product | 8-(2,4-Difluorophenoxy)-7-(6-methyl-7-oxo-1-{[2-(trimethylsilyl)ethoxy]methyl}-6,7-dihydro-1H-pyrazolo[3,4-c]pyridin-4-yl)-3,4-dihydroquinoxalin-2(1H)-one | 10.5 mg, 24% | FC1=C(OC=2C(=CC=C3NCC(NC23)=O)C=2C3=C(C(N(C2)C)=O)N(N=C3)COCC[Si](C)(C)C)C=CC(=C1)F | C27H29F2N5O4Si
